US07964607B2
(b) 5-amino-1-isopropyl-1H-pyrazole-4-carboxamide
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide but substituting 5-amino-1-isopropyl-1H-pyrazole-4-carbonitrile provided the title compound. 400 MHz 1H NMR (CDCl3) δ 7.67 (s, 1H), 4.40-4.33 (m, 1H), 1.37 (d, J=6.6 Hz, 6H). MS: (M+H m/z=169.1).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C1=C(C=CC=C1)OC)C(=O)N | C11H12N4O2
reactant | 5-amino-1-isopropyl-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C(C)C)C#N | C7H10N4
product | 5-amino-1-isopropyl-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C(C)C)C(=O)N | C7H12N4O
